US09340538B2
Step B: 1,3,4-thiadiazole-2-carboximidamide hydrochloride
1,3,4-thiadiazole-2-carbonitrile (1.11 g, 10 mmol) was reacted with sodium methoxide (0.81 g, 15 mmol) and ammonium chloride (0.96 g, 18 mmol) according to the procedure as described in Example 61, Step B to give the title compound as an offwhite solid (1.15 g, 70%). The compound was characterized by the following spectroscopic data:

reactant | 1,3,4-thiadiazole-2-carbonitrile | 10 mmol, 1.11 g | S1C(=NN=C1)C#N | C3HN3S
reactant | sodium methoxide | 15 mmol, 0.81 g | C[O-].[Na+]
reactant | ammonium chloride | 18 mmol, 0.96 g | [Cl-].[NH4+]
product | 1,3,4-thiadiazole-2-carboximidamide hydrochloride | Cl.S1C(=NN=C1)C(N)=N | InChI=1S/C3H4N4S.ClH/c4-2(5)3-7-6-1-8-3;/h1H,(H3,4,5);1H
